Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PLASTIC
 
Allergies: 
Xylocaine
 
Attending: ___.
 
Chief Complaint:
Right Breast Cancer
 
Major Surgical or Invasive Procedure:
1. Right immediate breast reconstruction deep inferior
    gastric perforator flap.
2. Harvest of left deep inferior epigastric artery and vein
    pedicle.
3. Harvest of right internal mammary artery and vein
    pedicle.
4. Partial rib resection, third rib right.
5. Autologous fat grafting vascular pedicle.

 
History of Present Illness:
Ms. ___ is a ___ woman with a history of right 
breast cancer.  She was referred to Dr. ___ by Dr. ___ 
and ___ primary care physician, ___.  She had 
had a biopsy which was found to be right breast cancer, and was 
interested in mastectomy and reconstruction.
 
Past Medical History:
___ Disease
Retinal Detachment
endometriosis with hysterectomy
left DVT
 
Social History:
___
Family History:
Family history is positive for thyroid disease.  She has an 
uncle
with hyperthyroidism and an uncle with hypothyroidism
 
Physical Exam:
On physical examination, she is ___ feet 5 inches in height, 185 
pounds.  She is a well-appearing, well-nourished ___ 
woman.  On her breast exam, her sternal notch to nipple distance 
on the right side is 27.0 cm, on the left side is 29.0 cm.  
Inframammary fold to nipple distance is 9.5 cm on the right, 
10.0 cm on the left.  She wears a 38 D cup size bra.  She has a 
grade 2 to 3 ptosis.  She has a well-healed biopsy incision on 
the right breast.  Lymphatic exam is unremarkable at the neck 
and the axilla.  Her abdominal exam is soft and nontender.  She 
has enough infraumbilical tissue to create about a B to C cup 
size reconstruction.  On her back exam, her latissimus muscle is 
intact and she has enough superior gluteal tissue to create 
about a C cup size reconstruction.

 
Pertinent Results:
___ 04:38AM BLOOD WBC-12.4*# RBC-3.57* Hgb-9.7* Hct-29.0* 
MCV-81* MCH-27.0 MCHC-33.3 RDW-12.5 Plt ___
 
Brief Hospital Course:
Pt is a ___ y.o. female diagnosed with right breast cancer. She 
was admitted to ___ on ___ for planned right mastectomy 
with breast reconstruction with ___ flap. She tolerated the 
procedure well and, as planned, remained in the PACU for 24 
hours post-operatively where she underwent continuous Vioptix 
monitoring and Q1 hour doppler checks of her ___ pulses b/l. 
After 24 hours, she was admitted to the Plastic Surgery service.

On POD 1, she was tolerating a regular diet and getting out of 
bed to chair. Her Foley catheter was removed and she voided 
appropriately. IVF were discontinued as she had adequate PO 
intake. She began ambulating on POD 2. She was also continued on 

Cefazolin and 121.5 mg daily of ASA per the ___ pathway. Her 
right breast had good color and tone, with strong doppler 
signals and adequate Vioptix monitoring througout her hospital 
course.

Pain: Her pain was managed initially with a PCA and then with PO 
Vicodin. 

She was discharged home with ___ services for social work on POD 
3.

 
Medications on Admission:
Levothyroxine 112 mcg daily
 
Discharge Medications:
1. Aspirin 81 mg Tablet, Chewable Sig: 1.5 Tablet, Chewables PO 
DAILY (Daily).
Disp:*45 Tablet, Chewable(s)* Refills:*0*
2. Levothyroxine 112 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Hydrocodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed for pain.
Disp:*50 Tablet(s)* Refills:*0*
4. Duricef 500 mg Capsule Sig: One (1) Capsule PO twice a day 
for 7 days.
Disp:*14 Capsule(s)* Refills:*0*
5. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day as 
needed for constipation.
Disp:*60 Capsule(s)* Refills:*1*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Right breast cancer.

 
Discharge Condition:
Good.

 
Discharge Instructions:
Return to the ER if: 
* If you are vomiting and cannot keep in fluids or your 
medications.  * If you have shaking chills, or a fever greater 
than 101.5 (F) degrees or 38(C) degrees.
* Any serious change in your symptoms, or any new symptoms that 
concern you.
* Please resume all regular home medications and take any new 
meds as ordered. 
* Do not drive or operate heavy machinery while taking any 
narcotic pain medication. You may have constipation when taking 
narcotic pain medications (oxycodone, percocet, vicodin, 
hydrocodone, dilaudid, etc.); you should continue drinking 
fluids, you may take stool softeners, and should eat foods that 
are high in fiber.
*No strenuous activity
*No pressure on your chest or abdomen
*Okay to shower, but no baths until after directed by your 
surgeon
 
Followup Instructions:
___